US06335344B1
A mixture of 3,4-(methylenedioxy)-6-nitrobenzaldehyde (25 g, 128 mmol) and potassium permanganate (40 g, 253 mmol) in a mixture of 300 mL water and 200 mL acetone was stirred overnight at ambient temperature and then heated to 100° C. for 1 hour. The reaction mixture was filtered through Celite®, acetone was removed in vacuo, and the product precipitated from the water solution by acidification to pH 1.2 with concentrated hydrochloric acid to give 6-nitro-benzo[1,3]dioxole-5-carboxylic acid [19.88 g (73%)].

reactant | 3,4-(methylenedioxy)-6-nitrobenzaldehyde | 128 mmol, 25 g | C1OC=2C=C(C=O)C(=CC2O1)[N+](=O)[O-] | C8H5NO5
reactant | potassium permanganate | 253 mmol, 40 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 300 mL | O | H2O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 6-nitro-benzo[1,3]dioxole-5-carboxylic acid | 19.88 g, 73% | [N+](=O)([O-])C=1C(=CC2=C(OCO2)C1)C(=O)O | C8H5NO6
